US06562989B2
N-n-hexyl-4-tert-butylaniline (Table 7, Entry 6)
According to the general procedure B, 4-tert-butylbromobenzene (108 mg, 0.51 mmol) reacted with n-hexylamine (80 μl, 0.60 mmol) using 1 mol % of Pd(OAc)2, 2 mol % of Ph5FcP(t-Bu)2, and sodium tert-butoxide (59 mg, 0.60 mmol) in THF at 80° C. for 2 h to give the title compound (110 mg, 94%) as a colorless oil: 1H-NMR (300 MHz, CDCl3): δ 7.26 (d, 2H, J=8.4 Hz), 6.62 (d, 2H, J=8.4 Hz), 3.51 (bs, 1H), 3.14 (t, 2H, J=7.2 Hz), 1.66 (m, 2H), 1.34-1.43 (m, 6H), 1.34 (s, 9H, t-Bu), 0.96 (t, 3H, J=6.3 and 6.9 Hz). 13C{1H}-NMR (100 MHz, CDCl3): δ 146.14, 139.75, 125.92, 112.35, 44.11, 33.76, 31.63, 31.53, 29.58, 26.86, 22.62, 14.05. GC/MS(EI): m/z 233 (M+). Anal. Calcd for C16H27N: C, 82.34; H, 11.82; N, 6.00. Found: C,82.55; H, 11.82; N, 6.06.

reactant | 4-tert-butylbromobenzene | 0.51 mmol, 108 mg | C(C)(C)(C)C1=CC=C(C=C1)Br | C10H13Br
reactant | n-hexylamine | 0.60 mmol, 80 μl | C(CCCCC)N | C6H15N
reactant | sodium tert-butoxide | 0.60 mmol, 59 mg | CC(C)([O-])C.[Na+]
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | N-n-hexyl-4-tert-butylaniline | 110 mg, 94% | C(CCCCC)NC1=CC=C(C=C1)C(C)(C)C | C16H27N
